US06562828B1
4-(1-tert-Butoxycarbonylpiperidin-4-yloxy)phenoxyacetic Acid
To a solution of ethyl 4-(1-tert-butoxycarbonylpiperidin4-yloxy)-phenoxyacetate (23.71 g) in a mire of tetrahydrofuran (34 ml) and ethanol (34 ml) was dropwise added 1N aqueous lithium hydroxide solution (68.7 ml) with ice-cooling, and the mixture was stirred at room temperature for 20 min. After completion of the reaction, the solvent was evaporated and to the obtained residue was added 10% aqueous citric acid solution. The mixture was extracted with ethyl acetate and washed successively with water and saturated brine. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated. The obtained solid was filtrated with hexane and dried under reduced pressure to give the title compound (19.09 g).

reactant | ethyl 4-(1-tert-butoxycarbonylpiperidin4-yloxy)-phenoxyacetate | 23.71 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(OCC(=O)OCC)C=C1 | C20H29NO6
reactant | tetrahydrofuran | 34 ml | O1CCCC1 | C4H8O
reactant | lithium hydroxide | 1N, 68.7 ml | [OH-].[Li+]
solvent | ethanol | 34 ml | C(C)O | C2H6O
product | 4-(1-tert-Butoxycarbonylpiperidin-4-yloxy)phenoxyacetic Acid | 19.09 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(OCC(=O)O)C=C1 | C18H25NO6
